US06977255B2
2-Morpholinyl-8-phenoxy-4H-pyrido[1,2-a]pyrimidin-4-one (TGX-141)
8-Hydroxy-2-morpholinyl-4H-pyrido[1,2-a]pyrimidin-4-one (0.2 g, 0.81 mmol), phenylboronic acid (0.29 g, 2.4 mmol), and copper acetate (0.20 g, 1.6 mmol) were suspended in dichloromethane and treated with triethylamine (0.23 ml, 1.6 mmol) and the mixture was stirred at RT for 4 days. The product was adsorbed onto silica and eluted through a silica column with ethyl acetate to yield a pale tan solid (0.026 g).

reactant | 8-Hydroxy-2-morpholinyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.81 mmol, 0.2 g | OC1=CC=2N(C(C=C(N2)N2CCOCC2)=O)C=C1 | C12H13N3O3
reactant | phenylboronic acid | 2.4 mmol, 0.29 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 1.6 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper acetate | 1.6 mmol, 0.20 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-Morpholinyl-8-phenoxy-4H-pyrido[1,2-a]pyrimidin-4-one | 0.026 g | N1(CCOCC1)C=1N=C2N(C(C1)=O)C=CC(=C2)OC2=CC=CC=C2 | C18H17N3O3
